.title option mixed case maxiter space rc smoke
.OpTiOn MaxIter 12
V1 in 0 PULSE(0 1m 1p 0.2p 0.2p 2p 4p)
R1 in out 10
C1 out 0 1p
.tran 0.5p 10p
.end
